US04876262
4-(4-Methylsulfonylaminobenzoyl)piperdine hydrochloride
43.4 g (0.142 mol) of 1-acetyl-4-(4-methylsulfonylaminobenzoyl)piperidine was suspended in 1 l of 3N hydrochloric acid and the suspension was stirred under reflux for 3 h. After completion of the reaction, the liquid reaction mixture was cooled and white crystals thus formed were filtered, washed with water and dried to obtain 37.8 g (yield: 84%) of the intended compound.

reactant | 1-acetyl-4-(4-methylsulfonylaminobenzoyl)piperidine | 0.142 mol, 43.4 g | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)NS(=O)(=O)C)=O | C15H20N2O4S
reactant | hydrochloric acid | 3N, 1 l | Cl | ClH
product | 4-(4-Methylsulfonylaminobenzoyl)piperdine hydrochloride | 37.8 g, yield: 84% | Cl.CS(=O)(=O)NC1=CC=C(C(=O)C2CCNCC2)C=C1 | InChI=1S/C13H18N2O3S.ClH/c1-19(17,18)15-12-4-2-10(3-5-12)13(16)11-6-8-14-9-7-11;/h2-5,11,14-15H,6-9H2,1H3;1H
